data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(Cl)C2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(Cl)C2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(Cl)C2F)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(C)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(C)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(C)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "FC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(Cl)cc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2ccc(Cl)cc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2ccc(Cl)cc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(Cl)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccc(Cl)cc1", "products": "O=C1CCN2C[C@H](OC(F)c3ccc(Cl)cc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCc1cccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "CCc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "CCc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "CCc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "CCc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "CCc1cccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1c(C)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1c(C)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1c(C)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1OC", "products": "COc1c(C)cccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1C", "products": "Cc1c(Cl)cccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccccc1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccccc1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccccc1Cl)C2(C)C", "products": "C[C+]1C2(c3ccccc3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccccc3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccccc2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccccc2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccccc3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccccc3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccccc3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1OC", "products": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1OC"}, {"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1OC", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1OC", "products": "COc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1OC"}]}
